US08487108B2
methyl 2-((R)-(3-chlorophenyl)((R)-1-((S)-1-cyclohexyl-3-(N-methyl-N-(tert-butoxycarbonyl)amino)propan-2-ylcarbamothioyl)piperidin-3-yl)methoxy)ethylcarbamate (640 mg, 0.1 mmol) was dissolved in a solution of 20% (V/V) TFA/CH2Cl2 (5 mL). The reaction mixture was stirred at room temperature for 1 h, a solution of saturated sodium bicarbonate was added dropwise to adjust the pH to 7-8. The resulting mixture was extracted with CH2Cl2 (3×15 mL), washed with brine, dried over Na2SO4, concentrated in vacuo. The residue was purified by preparative HPLC to afford methyl 2-((R)-(3-chlorophenyl)((R)-1-((S)-1-cyclohexyl-3-(methylamino)propan-2-ylcarbamothioyl)piperidin-3-yl)methoxy)ethylcarbamate (10 mg, 19%).

reactant | methyl 2-((R)-(3-chlorophenyl)((R)-1-((S)-1-cyclohexyl-3-(N-methyl-N-(tert-butoxycarbonyl)amino)propan-2-ylcarbamothioyl)piperidin-3-yl)methoxy)ethylcarbamate | 0.1 mmol, 640 mg | ClC=1C=C(C=CC1)[C@H](OCCNC(OC)=O)[C@H]1CN(CCC1)C(N[C@@H](CC1CCCCC1)CN(C(=O)OC(C)(C)C)C)=S | C32H51ClN4O5S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | TFA CH2Cl2 | 5 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | methyl 2-((R)-(3-chlorophenyl)((R)-1-((S)-1-cyclohexyl-3-(methylamino)propan-2-ylcarbamothioyl)piperidin-3-yl)methoxy)ethylcarbamate | 10 mg, 19% | ClC=1C=C(C=CC1)[C@H](OCCNC(OC)=O)[C@H]1CN(CCC1)C(N[C@@H](CC1CCCCC1)CNC)=S | C27H43ClN4O3S
